US08648066B2
4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-ethyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 4 by omitting step 3, and using trimethyl orthopropionate and 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine in step 4. 1H NMR (400 MHz, Methanol-d4): 8.77 (br, 1H), 8.34 (s, 1H), 8.06 (s, 1H), 7.59 (s, 1H), 7.50 (d, 1H), 7.09 (d, 1H), 4.74 (s, 2H), 4.38 (m, 2H), 3.94 (m, 2H), 2.97 (q, 2H), 2.77 (t, 2H), 2.47 (s, 2H), 1.67 (t, 2H), 1.26 (t, 3H), 0.90 (s, 6H); MS (EI) for C27H30N6O: 455 (MH+).

reactant | trimethyl orthopropionate | C(CC)(OC)(OC)OC | C6H14O3
reactant | 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)N)C | C24H28N6O
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-ethyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)NC(=N1)CC)C | C27H30N6O
